US04243406
Hydroxylamine hydrochloride (1.1 g.; 0.016 mol.) was added to a mixture of ethyl-2-(2',4'-dichlorobenzoyl)-3-dimethylaminopropenoate (4.74 g.; 0.015 mol.) and anhydrous sodium acetate (1.25 g.; 0.015 mol.) in 50 ml. of ether and 25 ml. of methanol at 25° C. An additional 25 ml. of methanol was added, and the resultant mixture was stirred for 30 minutes. The mixture was washed into a separatory funnel with 150 ml. of ether and the ether layer was washed free of salts with water. The ether layer was dried with magnesium sulfate, filtered, then concentrated to yield an oil which was crystallized from pentane to yield ethyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate (1.88 g.; 44% yield) as tan crystals having a melting point of 82°-84° C. and the following analysis:

reactant | Hydroxylamine hydrochloride | 0.016 mol, 1.1 g | Cl.NO
reactant | ethyl-2-(2',4'-dichlorobenzoyl)-3-dimethylaminopropenoate | 0.015 mol, 4.74 g | C(C)OC(C(=CN(C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O)=O | C14H15Cl2NO3
reactant | sodium acetate | 0.015 mol, 1.25 g | C(C)(=O)[O-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | ethyl-5-(2',4'-dichlorophenyl)-4-isoxazolecarboxylate | 1.88 g, 44% yield | C(C)OC(=O)C=1C=NOC1C1=C(C=C(C=C1)Cl)Cl | C12H9Cl2NO3
